US05661161
Preparation of N-[1-(L-Pyroglutamyl)pyrrolidin-2(S)-ylmethyl]-N-(1-naphthylmethyl)glycyl-methionine methyl ester
N-(Pyrrolidin-2(S)-ylmethyl)-N-(1-naphthylmethyl)-glycyl-methionine methyl ester hydrochloride(0.200 g, 0.387 mmol), L-pyroglutamic acid (0.060 g, 0.465 mmol) and diisopropylethylamine (0.300 mL, 2.32 mmol) were dissolved in dry DMF (2 mL). BOP-chloride (0.355 mg, 1.39 mmol) was added and the mixture stirred under Ar for 18 h. The solvent was removed in vacuo and the residue partitioned between saturated NaHCO3 soln and EtOAc. The layers were separated and the organics were washed with H2O, brine, dried over MgSO4, filtered and the solvent removed in vacuo to give an oil which was chromatographed on silica gel (3:97 MeOH:CH2Cl2) to give the title compound. 1H NMR (CD3OD) δ 8.33 (d, 1H, J=8 Hz), 7.91 (d, 1H, J=7 Hz), 7.85 (d, 1H, J=8 Hz), 7.43-7.64 (m, 4H), 4.36-4.54 (m, 3H), 3.98 (d, 1H, J=13 Hz), 3.69 (s, 3H), 3.49-3.58 (m, 1H), 3.21-3.49 (m, 5H), 2.92 (dd, 1H, J=4, 12 Hz), 2.50-2.59 (m, 1H), 2.25-2.50 (m, 3H), 2.08-2.25 (m, 1H), 1.79-2.08 (m, 5H), 1.95 (s, 3H), 1.70-1.79 (m, 1H), 1.46-1.57 (m, 1H). FAB MS 555 (M+1).

reactant | N-(Pyrrolidin-2(S)-ylmethyl)-N-(1-naphthylmethyl)-glycyl-methionine methyl ester hydrochloride | 0.387 mmol, 0.200 g | Cl.COC([C@@H](NC(CN(CC1=CC=CC2=CC=CC=C12)C[C@H]1NCCC1)=O)CCSC)=O
reactant | L-pyroglutamic acid | 0.465 mmol, 0.060 g | N1[C@@H](CCC1=O)C(=O)O | C5H7NO3
reactant | diisopropylethylamine | 2.32 mmol, 0.300 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | BOP chloride | 1.39 mmol, 0.355 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C.[Cl-]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-[1-(L-Pyroglutamyl)pyrrolidin-2(S)-ylmethyl]-N-(1-naphthylmethyl)glycyl-methionine methyl ester | COC([C@@H](NC(CN(CC1=CC=CC2=CC=CC=C12)C[C@H]1N(CCC1)C([C@H]1NC(CC1)=O)=O)=O)CCSC)=O | C29H38N4O5S
